US05663200
47e) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid
A solution of 1.308 g (2.597 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid, 1.443 g (20.776 mmol) of imidazole and 1.816 g (11.686 mmol) of tert-butyldimethylchlorosilane in 13 ml of abs. DMF is stirred at RT for 17 h under argon. After that, the reaction mixture is poured onto ice-water and this mixture is extracted with ethyl acetate. The organic phase is washed with cold 10% citric acid solution and saline. The combined aqueous phases are reextracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and evaporated on a RE at approximately 30° C. The resulting product is dissolved in 34.51 ml of methanol and 11.82 ml of THF, and this solution is treated, at RT, with 2.08 g of potassium carbonate in 11.82 ml of water. After it has been stirred for 2.5 h, the reaction mixture is concentrated down, at approximately 30° C., to half its volume and treated with ethyl acetate and 10% citric acid solution (cold), and the phases are separated. The organic phase is washed a further two times with (cold) saline. The combined aqueous phases are reextracted with ethyl acetate. The combined organic phases are dried over Na2SO4 and concentrated. The residue is purified by chromatography on silica gel (hexane:ethyl acetate, 1:1, and then 1:1.5), and the title compound is obtained. TLC Rf (J)=0.02. FAB-MS (M+H)+ =618 IR(KBr) inter alia: 1712, 1495, 1366, 1101 and 836 cm-1. 1H-NMR(CD3OD) inter alia: 7.30-7.10 (m, 5H); 6.84 and 6.67 (each d, each 1H); 6.23 and 5.55 (each d, in all 1H from NH); 3.86, 3.81 and 3.80 (each s, each 3H); 1.31 and 1.20 (each s, in all 9H from Boc); 0.93 (s, 9H); 0.14 and0.11 (each s, each 3H).

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid | 2.597 mmol, 1.308 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C(=C(C=C1)OC)OC)OC)O)CC1=CC=CC=C1 | C27H37NO8
reactant | imidazole | 20.776 mmol, 1.443 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 11.686 mmol, 1.816 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DMF | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C(=C(C=C1)OC)OC)OC)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C33H51NO8Si
